US06875765B2
A solution of (S)-3-(4-acetylamino-2-benzyloxy-benzenesulfonylamino)-succinamic acid tert-butyl ester (0.92 g, 2.0 mmol) in THF (50 mL) was shaken with 20% Pd/C (0.090 g) under H2 (50 psi) for 5 h using Parr apparatus. The reaction mixture was filtered through celite and concentrated. (S)-3-(4-acetylamino-2-hydroxy-benzenesulfonylamino)-succinamic acid tert-butyl ester was obtained (0.85 g, 98%) as an off white solid. MS (APCI) m/z 400.1 (M−1).

reactant | (S)-3-(4-acetylamino-2-benzyloxy-benzenesulfonylamino)-succinamic acid tert-butyl ester | 2.0 mmol, 0.92 g | C(C)(C)(C)OC(C[C@@H](C(=O)N)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCC1=CC=CC=C1)=O | C23H29N3O7S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.090 g | [Pd] | Pd
product | (S)-3-(4-acetylamino-2-hydroxy-benzenesulfonylamino)-succinamic acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(=O)N)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)O)=O | C16H23N3O7S
